US04732998
(1-phenoxypropylidene)-bisphosphonic acid
A solution of tetraethyl (1-phenoxypropylidene)-bisphosphonate (2.1 g) in trimethyl bromosilane (8 ml) was kept at room temperature overnight, followed by evaporation in vacuo. The residue was stirred overnight in absolute ethanol. Evaporation in vacuo gave the desired compound.

reactant | tetraethyl (1-phenoxypropylidene)-bisphosphonate | 2.1 g | O(C1=CC=CC=C1)C(CC)(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C17H30O7P2
solvent | trimethyl bromosilane | 8 ml | C[Si](Br)(C)C | C3H9BrSi
product | (1-phenoxypropylidene)-bisphosphonic acid | O(C1=CC=CC=C1)C(CC)(P(O)(O)=O)P(O)(O)=O | C9H14O7P2
